Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Phenergan
 
Attending: ___.
 
Chief Complaint:
lethargy
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo female with history of hypothyroidism, dyslipidemia, and 
Alzheimer's dementia presents with ___ and elevated TSH. History 
provided by daughter. Daughter states that patient has been in 
some decline over past few months at assisted ___ in 
___. Patient has been able to identify daughter until 
about 10 days ago. Prior to 10 days ago, baseline mental status 
was orientation to self, family, place, but not time. Daughter 
reports patient more lethargic past week, unable to recognize 
daughter. ___ contacted PCP -> lab work revealed creatinine 
3.8, TSH 18 (has been as high as 56 in past). Daughter concerned 
that patient has not been fully compliant with meds at assisted 
living facility. Patient has not been complaining or pain, and 
has not expressed any complaints to staff at facility. She also 
has had limited PO intake.  
.  
In the ED, initial vs were: 97 71 114/62 18 97% sat. Patient was 
given one liter NS. Straight cath was performed for urine cx. 
CXR obtained. Patient then transferred to floor. Vitals on 
transfer: 72, 20, 102/48, 100/RA  
.  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denied arthralgias or myalgias.  

 
Past Medical History:
HYPOTHYROIDISM  
HYPERCHOLESTEROLEMIA  
PANCREATITIS  
OSTEOPENIA  
ALZHEIMER'S DISEASE  
B12 DEFICIENCY ANEMIA  
*S/P APPENDECTOMY  
VITAMIN D DEFICIENCY
 
Social History:
___
Family History:
n/c
 
Physical Exam:
Vitals: afebrile 110/55 HR 73 RR 20 100 % RA, 123  
General: Alert, oriented to name only, no distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
 
Pertinent Results:
Labs on Admission:
___ 12:40AM BLOOD WBC-4.3 RBC-3.00* Hgb-10.5* Hct-29.8* 
MCV-99* MCH-35.1* MCHC-35.3* RDW-12.3 Plt ___
___ 12:40AM BLOOD Neuts-52.7 ___ Monos-4.5 Eos-3.1 
Baso-0.6
___ 12:40AM BLOOD Glucose-108* UreaN-83* Creat-2.9* Na-137 
K-3.3 Cl-91* HCO3-31 AnGap-18
___ 12:40AM BLOOD CK(CPK)-115
___ 12:40AM BLOOD Albumin-4.1 Phos-3.5 Mg-2.5
___ 12:40AM BLOOD VitB12-463 Folate-16.2
___ 12:40AM BLOOD T3-48* Free T4-0.92*
.
Labs on Discharge:
___ 06:00AM BLOOD Glucose-94 UreaN-28* Creat-1.7* Na-141 
K-3.9 Cl-110* HCO3-25 AnGap-10
___ 05:40AM BLOOD WBC-5.5 RBC-3.15* Hgb-11.0* Hct-32.0* 
MCV-102* MCH-34.9* MCHC-34.3 RDW-12.3 Plt ___
.
Urine Studies:
___ 04:40AM URINE Color-Straw Appear-Clear Sp ___
___ 04:40AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-8.0 Leuks-NEG
___ 06:17AM URINE Hours-RANDOM UreaN-590 Creat-75 Na-44 
K-59 Cl-15
___ 06:17AM URINE Osmolal-398
.
Micro:
___ Urine Culture negative
.
Imaging Studies:
___ CXR: The cardiac, mediastinal and hilar contours 
are stable since ___. Bilateral low lung volumes are 
again noted.  Tortuosity of the aorta is noted. No evidence of 
pleural effusion or definite vascular congestion. Linear 
atelectasis within the right lower lobe is stable since ___. 
Minimal atelectasis at the left lung base is noted. 
.
ECG ___: 
Baseline artifact. Sinus rhythm. Q-T interval prolongation. 
Borderline 
low limb lead voltage. Early R wave progession. RSR' pattern in 
lead V1. 
ST-T wave abnormalities. Since the previous tracing of ___ 
the rate is 
slower. Axis is less leftward. Differences in lead V1 may be 
related to lead position. ST-T wave abnormalities may be more 
prominent but the artifact precludes definitive statement. 
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a history of Alzheimer's 
Dementia who presented to the hospital with lethargy and was 
found to be hypothyroid and in acute renal failure.
.
1. Acute Renal Failure: Likely etiology was prerenal from 
dehydration.  She was given IV fluids and her creatinine 
improved.  Her mental status improved as well with IV fluids.  
Creatinine peak was 2.9 and this improved to 1.7 prior to 
discharge.  She was encouraged to drink more fluids.
.
2. Hypothyroidism: This was due to refusal of levothyroxine at 
her assisted living.  She was put back on her home dose of 
levothyroxine and took it while she was here.
.
3. Mental Status:  Her mental status waxed and waned while she 
was here, consistent with delerium in the setting of advanced 
alzheimer's disease.  Her delerium was due to her acute kidney 
failure and hypothyroidism, as well as new environment from 
being in the hospital.  She had a negative UA on admission and 
was afebrile during her hospitalization.  To manage her 
delerium, she was given PRN haldol 0.5mg and PRN Zydis (Zyprexa 
sl) 2.5mg PO BID PRN.  Zyprexa seemed to work well for her and 
she can continue to take this as needed.
.
4. Goals of Care: Multiple conversations took place with the 
patient's daughter regarding her goals of care.  It was 
important to her daughter that the patient stay at her current 
facility, and she understood that with advanced Alzheimer's 
disease, she may not eat or drink enough to prevent further 
episodes of renal failure.  The decision was made to involve 
hospice in her care and that she would be made comfortable and 
the health care proxy, the patient's daughter, was in agreement 
with this.  It was advised that she not return to the hospital 
if she were to become sicker; however her daughter stated she 
may not be able to do this.  She will continue to recieve 
support from hospice social workers in coping with the decline 
of her mother.
.
Code Status: DNR/DNI
.
HCP: ___ ___
 
Medications on Admission:
Unclear if she was compliant with taking these:
ASA 81 mg  
citalopram 20 mg daily  
furosemide 80 mg daily  
levothyroxine 100 mcg daily  
lisinopril 2.5 mg daily  
metolazone 5 mg daily  
simvastatin 40 mg daily  
vitamin D 1000 units daily  

 
Discharge Medications:
1. levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
2. olanzapine 5 mg Tablet, Rapid Dissolve Sig: 0.5 Tablet, Rapid 
Dissolve PO once a day.
Disp:*30 Tablet, Rapid Dissolve(s)* Refills:*1*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: 
1. Acute Kidney Injury secondary to dehydration 
2. Hypothyroidism from medication non-compliance 
3. End-Stage Alzheimer's Disease 

 
Discharge Condition:
Mental Status: Confused - always. 
Level of Consciousness: Lethargic but arousable. 
Activity Status: Out of Bed with assistance to chair or 
wheelchair. 

 
Discharge Instructions:
You were admitted to the hospital with low thyroid levels and 
renal failure.  Your low thyroid levels were due to not taking 
your medication at home.  Your renal failure was treated with 
fluids and improved.  While you were here, you met with a 
hospice liason and were discharged back to your assisted living 
with hospice services.  The following medications were changed 
this admission.

Please STOP taking all medication EXCEPT for Levothyroxine.  
This is an important medication that you should take every day.

Please ADD Zyprexa (Zydis) 2.5 mg by mouth daily at 2pm in the 
afternoon for agitation.

Please try to drink at least 1 liter of fluid per day to prevent 
renal failure.

It was a pleasure taking care of you.
 
Followup Instructions:
___